US07160882B2
c) 6-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-2,2-dimethyl-benzo[1,4]oxazin-3-one
50.12 g (154 mmol) 8-acetyl-6-benzyloxy-2,2-dimethyl-benzo[1,4]oxazin-3-one are reacted with selenium dioxide as oxidising agent and activated charcoal in refluxing dioxane and some water. After cooling, the solid is filtered off and washed with dioxane. The filtrate is evaporated down and the residue is dissolved in 550 mL ethanol and refluxed for 30 minutes. It is filtered and the mother liquor is cooled to −18° C., during which time a solid is precipitated which is suction filtered. After recrystallisation from ethanol the product is obtained in the form of a beige solid. Yield: 8.95 g (15%).

reactant | 8-acetyl-6-benzyloxy-2,2-dimethyl-benzo[1,4]oxazin-3-one | 154 mmol, 50.12 g | C(C)(=O)C1=CC(=CC=2NC(C(OC21)(C)C)=O)OCC2=CC=CC=C2 | C19H19NO4
reactant | selenium dioxide | [Se](=O)=O | O2Se
reactant | charcoal | C | CH4
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 6-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-2,2-dimethyl-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(C(O2)(C)C)=O)C1)C(C(O)OCC)=O | C21H23NO6
